Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
___ - upper endoscopy
___ - colonoscopy

 
History of Present Illness:
Mr. ___ is a ___ y/o man with a PMH of hemophilia A, 
hiatal hernia, UGIB (___), SIBO, and HCV (s/p 
interferon/ribavirin w/ clearance, ___ who presents as a 
transfer from ___ with lightheadedness, melena, and 
hematochezia for management of GI bleeding. He has 
intermittently had episodes of bright red blood per rectum for 
the past six months, which would turn the toilet bowl red. He 
has not required infusions for this and is undergoing work-up 
for this with gastroenterology at ___ (he lives in 
___, with a plan for upper and lower endoscopy as an 
outpatient potentially with a preceding ___ challenge. He had 
been feeling well and was in ___ for a ___ 
___ trip when he experienced an episode of hematochezia and 
became lightheaded. He experienced dizziness and had to lower 
himself to the ground, though he did not experience loss of 
consciousness. He had to crawl back to the campsite for 
assistance. He had also been experiencing dyspnea on exertion 
prior to this episode. He was taken to ___. 

There, his initial vital signs were T 97.4F BP 106/91 mmHg P 84 
RR 18 O2 97% RA. He denied headache, neck pain, chest pain, 
dyspnea at rest, joint pain, rash, or skin changes. Examination 
was notable for being pale, mildly diaphoretic, with normal 
abdominal examination, brown stool on rectal exam which was heme 
positive. Labs were notable for a WBC of 13.7, H/H 11.2/32.9, 
PLT 310,000. ___ was 14.7, INR 1.1, PTT 29. Factor VIII level was 
sent and is pending. Chemistries were notable for Na 139, K 3.9, 
BUN/Cr 40/1.3, Gluc 151, normal LFTs, negative troponins x2. 
While in the ED, he had an episode of melena. He was transfused 
2 units of pRBCs, given 40 mg IV pantoprazole, and loaded with 
Humate-P (factor ___ factor complex) 4,000 
units. Hematology was consulted at ___, who noted that 
given the severity of his bleed (in the setting of melena and 
near syncope), factor VIII activity should be maintained at 100% 
with re-infusion of factor VIII every ___ hours at a dose of 
2250 units and then spaced out for a week total of replacement. 
His loading dose was anticipated to be sufficient to initially 
place his factor VIII activity at 100%. He last received 507 
units of factor VIII at 1415 on ___. Given a shortage of factor 
VIII at ___, he was transferred to ___ for further 
management. 

In the ___ ED, his initial VS were T 97.6F BP 140/70 mmHg P 67 
RR 16 O2 100% RA. Labs were notable for PTT 32.4, INR 1.1, WBC 
7.8, H/H 10.1/___.1, PLT 182,000. Chemistries with Na 140, K 4.6, 
HCO3 21, BUN/Cr ___. He was type and screened, and CT head 
w/o contrast was performed, which showed no acute intracranial 
abnormality. He was admitted to the medical service. On arrival 
to the floor, he reported that he felt much better. He has not 
had any further bleeding since he arrived in ___. He denied 
any further lightheadedness or dyspnea. No dizziness, chest 
pain, fevers, chills, abdominal pain, nausea, vomiting, 
hematochezia, or melena. 
 
Past Medical History:
- hemophilia A (baseline factor VIII activity between ___,
previously required as-needed infusions, last in ___
- prior history of wisdom tooth extraction managed with DDAVP 
and
factor infusions
- history of HCV (s/p interferon/ribavirin in ___
- hiatal hernia
- history of upper GI bleed ___, endoscopy at ___
reportedly with esophagitis)
- SIBO
 
Social History:
___
Family History:
-  mother with hemophilia A
 
Physical Exam:
General: Comfortable, NAD.
HEENT: Anicteric sclerae; EOMs intact. MMM, OP clear.
CV: RRR, no MRGs; normal S1/S2.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Soft, non-tender, non-distended, NABS.
Ext: Warm and well-perfused. No edema.
Neuro: A&Ox3.
 
Pertinent Results:
ADMISSION:
==========
___ 04:26PM BLOOD WBC-7.8 RBC-3.37* Hgb-10.1* Hct-29.1* 
MCV-86 MCH-30.0 MCHC-34.7 RDW-13.5 RDWSD-42.0 Plt ___
___ 04:26PM BLOOD Neuts-53.0 ___ Monos-9.0 Eos-0.9* 
Baso-0.6 Im ___ AbsNeut-4.14 AbsLymp-2.83 AbsMono-0.70 
AbsEos-0.07 AbsBaso-0.05
___ 04:26PM BLOOD ___ PTT-32.4 ___
___ 04:26PM BLOOD Glucose-88 UreaN-28* Creat-0.9 Na-140 
K-4.6 Cl-107 HCO3-21* AnGap-12
___ 12:40AM BLOOD ALT-14 AST-11 LD(LDH)-102 AlkPhos-36* 
TotBili-0.6
___ 12:40AM BLOOD Albumin-3.3* Calcium-8.4 Phos-2.7 Mg-1.8

HEMOGLOBIN TREND:
==================
___ 04:26PM BLOOD WBC-7.8 RBC-3.37* Hgb-10.1* Hct-29.1* 
MCV-86 MCH-30.0 MCHC-34.7 RDW-13.5 RDWSD-42.0 Plt ___
___ 12:40AM BLOOD WBC-7.0 RBC-3.17* Hgb-9.5* Hct-27.4* 
MCV-86 MCH-30.0 MCHC-34.7 RDW-13.6 RDWSD-42.6 Plt ___
___ 09:10AM BLOOD WBC-5.2 RBC-3.37* Hgb-10.3* Hct-29.7* 
MCV-88 MCH-30.6 MCHC-34.7 RDW-13.7 RDWSD-43.8 Plt ___
___ 04:20PM BLOOD WBC-6.4 RBC-3.20* Hgb-9.7* Hct-28.5* 
MCV-89 MCH-30.3 MCHC-34.0 RDW-13.3 RDWSD-43.7 Plt ___
___ 11:21PM BLOOD WBC-5.5 RBC-3.37* Hgb-10.3* Hct-30.1* 
MCV-89 MCH-30.6 MCHC-34.2 RDW-13.3 RDWSD-43.2 Plt ___
___ 04:30AM BLOOD WBC-4.9 RBC-3.20* Hgb-9.9* Hct-28.6* 
MCV-89 MCH-30.9 MCHC-34.6 RDW-13.4 RDWSD-43.7 Plt ___
___ 04:30AM BLOOD WBC-4.5 RBC-3.26* Hgb-10.0* Hct-28.6* 
MCV-88 MCH-30.7 MCHC-35.0 RDW-13.2 RDWSD-41.5 Plt ___

PTT TREND:
===========
___ 04:26PM BLOOD ___ PTT-32.4 ___
___ 12:40AM BLOOD ___ PTT-28.1 ___
___ 09:10AM BLOOD ___ PTT-25.6 ___
___ 04:20PM BLOOD PTT-22.1*
___ 11:21PM BLOOD PTT-29.6
___ 04:30AM BLOOD ___ PTT-27.0 ___
___ 09:55PM BLOOD ___ PTT-31.3 ___
___ 09:55PM BLOOD ___ PTT-31.3 ___
___ 04:30AM BLOOD ___ PTT-29.3 ___

FACTOR 8 LEVELS:
================
___ 12:40AM BLOOD FacVIII-103
___ 09:55PM BLOOD FacVIII-114
___ 08:41AM BLOOD FacVIII-110

IMAGING:
========
CT HEAD:
No acute intracranial abnormality.

EGD & COLONOSCOPY: See attached reports.
 
Brief Hospital Course:
SUMMARY:
========
Mr. ___ is a ___ w/ hemophilia A, GERD & hiatal 
hernia, previous UGIB (___), SIBO, and HCV (s/p 
interferon/ribavirin w/ clearance, ___ who presented as a 
transfer from ___ with lightheadedness, melena, and 
hematochezia. 

Upon presentation, the patient stated that he had been having 
intermittent episodes of bright red blood per rectum for the 
past six months along with episodes of fever & tenesmus. He has 
not required transfusions for this and is undergoing work-up at 
home in ___, ___ (he lives in ___. He had been 
feeling well and was in ___ for a Boy ___ camping 
trip when he experienced an episode of hematochezia and became 
light-headed & dizzy and had to lower himself slowly to the 
ground. He crawled back to his campsite for assistance and was 
taken urgently to ___. At ___, he was 
hemodynamically stable w/ reported HGB ~11 but had large volume 
melena so was given 3U pRBCs (continued transfusions for no 
response in hemoglobin) and started in IV PPI. He was loaded w/ 
Humate-P (factor ___ factor complex) 4,000 U and 
then started on maintenance infusion of factor VIII. He was 
transferred to ___ for further management. 

ISSUES ADDRESSED:
=================
# Acute GIB:
# Acute blood loss anemia:
# Hemophilia A:
He received 3U pRBCs at ___ in the setting of large 
melena. He initially had an aggressive hemoglobin threshold on 
admission of 10 and he was transfused 1U for hemoglobin of 9.7 
on admission. His threshold was then liberalized to 7. He was 
otherwise HDS w/ stable H/H and did not require further 
transfusions. He was seen by the GI & Hematology services. 
Hematology recommended continuing IV factor VII at 35-50 U/kg 
Q8H and then Q12H (___). His factor VIII levels were 
100%. He underwent upper endoscopy which showed Grade D 
esophagitis. Colonoscopy showed medium non-bleeding internal 
hemorrhoids but was otherwise unremarkable. He will be 
discharged on BID PPI x 12 weeks and then follow-up with 
providers at home with repeat endoscopy at that time. Patient 
derived symptomatic relief from sucralfate 1 g QID, hence will 
be discharged on this medication as trial for 4 week course. 
This plan was discussed with the patient's outpatient providers 
who were in agreement with this plan and arranged for next-day 
follow-up. 

# SIBO:
Continued rifaximin. 

TRANSITIONAL ISSUES:
=====================
[] H/H on discharge: 10.0/28.6
[] Recommend BID PPI (omeprazole 40 mg BID) x 12 weeks (end 
___ and then repeat endoscopy. 
[] Trial of sucralfate 1 g QID x 4 weeks (end ___
[] Recommend at least 7 days of continued factor VIII infusions 
in the setting of large-volume GI bleed. 

CODE: FULL
CONTACT: ___, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rifaximin 550 mg PO BID 

 
Discharge Medications:
1.  Omeprazole 40 mg PO Q12H 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp 
#*168 Capsule Refills:*0 
2.  Sucralfate 1 gm PO QID reflux 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*120 Tablet Refills:*0 
3.  Rifaximin 550 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
========
melena
hematochezia
acute blood loss anemia
hemophilia A

SECONDARY:
==========
small intestinal bowel overgrowth
hemorrhoids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WERE YOU ADMITTED?
-You had a gastrointestinal (GI) bleed.

WHAT HAPPENED WHEN YOU WERE HERE?
-You got blood and Factor 8 to help you stop bleeding. 
-Our GI team did an upper endoscopy (camera into your esophagus) 
which showed "severe esophagitis" which is inflammation of your 
esophagus related to your reflux.
-They also did a colonoscopy which showed non-bleeding internal 
hemorrhoids.

WHAT SHOULD YOU DO WHEN YOU GO HOME?
-Follow-up with your doctors at ___ for continued care. You 
should have an appointment tomorrow. 
-You should take omeprazole twice a day for 12 weeks.  At that 
time you should get another endoscopy.  Before you get this 
procedure, you should ask your Hematologist at home about what 
to do before. 
-You can take the Carafate (sucralfate) at each meal for 1 
month.  

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___